US04242507
Benzoic acid (2.44 g) is dissolved in chloroform (30 ml), and thereto are added triethylamine (2.80 ml) under ice-cooling and further 1-(p-chlorobenzenesulfonyloxy)-1,2,3-benzotriazole (6.2 g) at room temperature, and the mixture is stirred for 2 hours. After the reaction, chloroform is distilled off, and to the resulting residue are added water and ethyl acetate. The ethyl acetate layer is washed with water, an aqueous sodium hydrogen sulfate and water in order and dried over anhydrous magnesium sulfate. After drying, the solvent is distilled off to give yellow crystals of 1-benzoyloxy-1,2,3-benzotriazole (3.9 g). The product is recrystallized from isopropanol to give faint yellow crystals of the product, melting point: 75°-78.5° C.

reactant | Benzoic acid | 2.44 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | triethylamine | 2.80 ml | C(C)N(CC)CC | C6H15N
reactant | 1-(p-chlorobenzenesulfonyloxy)-1,2,3-benzotriazole | 6.2 g | ClC1=CC=C(C=C1)S(=O)(=O)ON1N=NC2=C1C=CC=C2 | C12H8ClN3O3S
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-benzoyloxy-1,2,3-benzotriazole | 3.9 g | C(C1=CC=CC=C1)(=O)ON1N=NC2=C1C=CC=C2 | C13H9N3O2
